*$
*==========================================================
* Opamp Model
*
* These models were developed by:
* AEI Systems, LLC
* 5933 W. Century Blvd. Suite 1100
* Los Angeles, California 90045
* Copyright 2011, all rights reserved.
*
* This model is subject to change without notice.
* Users may not directly or indirectly re-sell or 
* re-distribute this model. This model may not 
* be used, modified, or altered 
* without the consent of AEi Systems. 
*
* For more information regarding modeling services,
* model libraries and simulation products, please
* call AEi Systems at (310) 216-1144, or contact 
* AEi by email: info@aeng.com. http://www.AENG.com
*
* $Revision:   3.0a  $
* $Author:   C.E. HYMOWITZ  $
* $Date:     1 April 2007 04:31:07  $
* Revised: 12/13/05 GB
*==========================================================
*$
.SUBCKT ONSEMI_MC33201 1 2 3 4 5
*                      | | | | |
*                      | | | | Output
*                      | | | Negative Supply
*                      | | Positive Supply
*                      | Inverting Input
*                      Non-inverting Input
*
*
* The following op-amps are covered by this model:
*      MC33201, MC33202, MC33204, NCV33202, NCV33204
*
* Revision History:
*      REV A: 10-Jan-11 Initial
*       
*       
*       
*
* Recommendations:
*      Use PSPICE (or SPICE 2G6; other simulators may require translation)
*      For a quick, effective design, use a combination of: data sheet
*            specs, bench testing, and simulations with this macromodel
*      For high impedance circuits, set GMIN=100F in the .OPTIONS statement
*
* Supported:
*      Typical performance for temperature range (-55 to 125) degrees Celsius
*      DC, AC, Transient, and Noise analyses.
*      Most specs, including: offsets, DC PSRR, DC CMRR, input impedance,
*            open loop gain, voltage ranges, supply current, ... , etc.
*      Temperature effects for Ibias, Iquiescent, Iout short circuit 
*            current, Vsat on both rails, Slew Rate vs. Temp and P.S.
*
* Not Supported:
*      Some Variation in specs vs. Power Supply Voltage
*      Vos distribution, Ib distribution for Monte Carlo
*      Distortion (detailed non-linear behavior)
*      Some Temperature analysis
*      Process variation
*      Behavior outside normal operating region
*
* Known Discrepancies in Model vs. Datasheet:
*      Only analog functions modelled.  CS ignored.
*      Saturation recovery model does not accurately predict recovery time.
*       
*
* Input Stage
V10  3 10 -700M
R10 10 11 690K
R11 10 12 690K
G10 10 11 10 11 144U
G11 10 12 10 12 144U
C11 11 12 1.15P
C12  1  0 1.00P
E12 71 14 POLY(6) 20 0 21 0 22 0 23 0 26 0 27 0   137U 1.17 1.17 1.16 1.16 1 1
G12 1 0 62 0 1m
G13 1 2 63 0 1u
M12 11 14 15 15 NMI 
M14 12 2 15 15 NMI 
G14 2 0 62 0 1m
C14  2  0 1.00P
I15 15 4 50.0U
V16 16 4 -500M
GD16 16 1 TABLE {V(16,1)} ((-100,-10.0N)(0,0)(1m,1u)(2m,1m)) 
V13 3 13 -500M
GD13 2 13 TABLE {V(2,13)} ((-100,-10.0N)(0,0)(1m,1u)(2m,1m)) 
R71  1  0 100MEG
R72  2  0 100MEG
R73  1  2 200K
C13  1  2 7.5P
*
* Noise, PSRR, and CMRR
I20 21 20 423U
D20 20  0 DN1
D21  0 21 DN1
I22 22 23 1N
R22 22 0  1k
R23  0 23 1k
G26  0 26 POLY(2) 3 0 4 0   0.00 -10.0U -31.6U
R26 26  0 1
G27  0 27 POLY(2) 1 0 2 0  -189U 10.0U 10.0U
R27 27  0 1
*
* Open Loop Gain, Slew Rate
G30  0 30 12 11 1
R30 30  0 1.00K
G31 0 31 3 4 0.00
I31 0 31 DC 72.3
R31 31  0 1 TC=2.59M,-5.6U
GD31 30 0 TABLE {V(30,31)} ((-100,-1n)(0,0)(1m,0.1)(2m,2))
G32 32 0 3 4 0.00
I32 32 0 DC 57.8
R32 32  0 1 TC=5.64M,-5.53U
GD32 0 30 TABLE {V(30,32)} ((-2m,2)(-1m,0.1)(0,0)(100,-1n))
G33  0 33 30 0 1m
R33  33 0 1K
G34  0 34 33 0 316M
R34  34 0 1K
C34  34 0 22.8U
G37  0 37 34 0 1m
R37  37 0 1K
C37  37 0 1.59P
G38  0 38 37 0 1m
R38  39 0 1K
L38  38 39 159N
E38  35 0 38 0 1
G35 33 0 TABLE {V(35,3)} ((-1,-1n)(0,0)(4.00,1n))(4.4,1))
G36 33 0 TABLE {V(35,4)} ((-4.4,-1)((-4.00,-1n)(0,0)(1,1n))
*
* Output Stage
R80 50 0 100MEG
G50 0 50 57 96 2
R58 57  96 0.50
R57 57  0 100
C58  5  0 2.00P
G57  0 57 POLY(3) 3 0 4 0 35 0 0 3.75M 5.00M 10.0M
GD55 55 57 TABLE {V(55,57)} ((-2m,-1)(-1m,-1m)(0,0)(10,1n))
GD56 57 56 TABLE {V(57,56)} ((-2m,-1)(-1m,-1m)(0,0)(10,1n))
E55 55  0 POLY(2) 3 0 51 0 -18.6M 1 -8.66M
E56 56  0 POLY(2) 4 0 52 0 1.12M 1 -8.87M
R51 51 0 1k
R52 52 0 1k
GD51 50 51 TABLE {V(50,51)} ((-10,-1n)(0,0)(1m,1m)(2m,1))
GD52 50 52 TABLE {V(50,52)}  ((-2m,-1)(-1m,-1m)(0,0)(10,1n))
G53  3  0 POLY(1) 51 0  -50.0U 1M
G54  0  4 POLY(1) 52 0  -50.0U -1M
*
* Current Limit
G99 96 5 99 0 1
R98 0 98 1 TC=-2.66M,9.98U
G97 0 98 TABLE { V(96,5) } ((-12.0,-66.5M)(-1.00M,-65.8M)(0,0)(1.00M,65.8M)(12.0,66.5M))
E97 99 0 VALUE { V(98)*((V(3)-V(4))*28.0M + 974M)}
D98 4 5 DESD
D99 5 3 DESD
*
* Temperature / Voltage Sensitive IQuiscent
R61 0 61 1 TC=2.64M,18.5U
G61 3 4 61 0 1
G60 0 61 TABLE {V(3, 4)} 
+ ((0,0)(10.0M,8.7U)(1.00,700U)(2.00,850U)
+ (4.00,900U)(5.00,870U)(6.00,860U))
*
* Temperature Sensitive offset voltage
I73 0 70 DC 1uA
R74 0 70 1 TC=2.00
E75 1 71 70 0 1 
*
* Temp Sensistive IBias
I62 0 62 DC 1uA
R62 0 62 REXP  101.54322
*
* Temp Sensistive Offset IBias
I63 0 63 DC 1uA
R63 0 63 5.00K TC=0.00,0.00
*
* Models
.MODEL NMI NMOS(L=2.00U W=42.0U KP=20.0U LEVEL=1 )
.MODEL DESD  D   N=1 IS=1.00E-15
.MODEL DN1 D   IS=1P KF=146E-18 AF=1
.MODEL REXP  RES TCE=-5.50082M
.ENDS ONSEMI_MC33201
